US06936612B2
3-Ethoxy-propionic acid ethyl ester (12.31 g, 84.2 mmol) was dissolved in tetrahydrofuran (40 mL) to which LiHMDS (89 mL, 88.9 mmol, 1.0 M in THF) was slowly added. 4-Cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde (10.0 g, 42.2 mmol) was then added neat and the reaction mixture was stirred at ambient temperature for 17 hours then brought to reflux for 7 hours. The reaction mixture was diluted with ethyl acetate and water, the layers separated, the organic layer dried over MgSO4 and the solvent evaporated to give a crude oil. The crude product was dissolved in ethyl acetate and diluted with hexanes to give a precipitate, which was collected by filtration to give 8-cyclopentyl-6-ethoxymethyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one as an off-white solid (4.70 g, 34.9%). 1H NMR δ (400 MHz, CDCl3) 8.47 (s, 1H), 7.52 (t, J=1.5 Hz, 1H), 5.82 (m, 1H), 4.32 (d, J=1.7 Hz, 1H), 3.53 (q, J=7.1 Hz, 2H), 2.47 (s, 3H), 2.17 (m, 2H), 1.93 (m, 2H), 1.73 (m, 2H), 1.54 (m, 2H), 1.15 (t, J=7.1 Hz, 3H).

reactant | 3-Ethoxy-propionic acid ethyl ester | 84.2 mmol, 12.31 g | C(C)OC(CCOCC)=O | C7H14O3
reactant | LiHMDS | 88.9 mmol, 1.0 M, 89 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-Cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 42.2 mmol, 10.0 g | C1(CCCC1)NC1=NC(=NC=C1C=O)SC | C11H15N3OS
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 8-cyclopentyl-6-ethoxymethyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 4.70 g, 34.9% | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)COCC)=O | C16H21N3O2S
